US06953862B2
Preparation of Styrene Carbamate Methyl Oxetane
3-Methyl-3-oxetane methanol (20.00 g, 0.1958 mole) and m-TMI (39.49 g, 0.1958 mole) were combined in a 250-ml four-neck round bottom flask equipped with a condenser, mechanical mixer, thermometer, nitrogen purge and oil bath. The reaction was placed under nitrogen with stirring and heated to 65° C. in the oil bath. A single drop of dibutyltin dilaurate was added and within 5 hours the reaction was complete based on depletion of the FT-IR isocyanate peak (2254 cm−1). The product was then removed from the flask as a colorless liquid with a viscosity of 21,000 cPs.

reactant | 3-Methyl-3-oxetane methanol | 0.1958 mole, 20.00 g | CC1(COC1)CO | C5H10O2
reactant | m-TMI | 0.1958 mole, 39.49 g | CC(=C)C1=CC(=CC=C1)C(C)(C)N=C=O | C13H15NO
product | Styrene Carbamate Methyl Oxetane | CC1OCC1.C(N)(O)=O.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H8O.CH3NO2/c1-2-8-6-4-3-5-7-8;1-4-2-3-5-4;2-1(3)4/h2-7H,1H2;4H,2-3H2,1H3;2H2,(H,3,4)
